2112-05-29 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2112-5-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-29**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 108 (107 - 118) bpm
   BP: 118/83(90) {107/75(81) - 142/95(105)} mmHg
   RR: 21 (21 - 30) insp/min
   SpO2: 99%
   Height: 68 Inch
             Total In:
             100 mL
   PO:
             TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   GENERAL: Diaphoretic and ill-appearing man in mild-moderate discomfort.
   Oriented x3. Mood, affect appropriate.
   HEENT: NC/AT. PERRL/EOMI. Sclera anicteric. MMM, OP clear. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm and deep X & Y descents. No thyromegaly
   or carotid bruits.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Tachycardic, regular rhythm, distant heart sounds. Normal S1-S2, +S3,
   +pericardial rub. No murmurs, thrills, lifts.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Tachypneic
   with shallow breathing. Good air movement, no accessory muscle use.
   Decreased breath sounds at bases (L>R), without crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation. No abdominial bruits.
   EXTREMITIES: WWP, no c/c/e. No femoral bruits.  2+ pedal pulses.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   154 K/uL
   8.5 g/dL
   151 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   12 mg/dL
   108 mEq/L
   142 mEq/L
   26.0 %
   14.9 K/uL
        [image002.jpg]
                             [**2112-5-29**]  02:36 AM
   WBC
   14.9
   Hct
   26.0
   Plt
   154
   Cr
   0.7
   TropT
   <0.01
   Glucose
   151
   Other labs: PT / PTT / INR:15.4/29.4/1.4, CK / CKMB /
   Troponin-T:18//<0.01, Amylase / Lipase:/21, Ca++:7.6 mg/dL, Mg++:1.4
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   54-yo man with hypertension, dyslipidemia, locally-advanced esophageal
   cancer s/p chemo-XRT & esophagectomy, recent left pleural effusion s/p
   thoracentesis and recent pericardial effusion with tamponade s/p
   pericardiocentesis [**2112-5-23**], who was admitted to [**Hospital1 2266**] with asymptomatic
   tachycardia and is now being transferred to CCU with recurrent
   pericardial effusion and early tamponade.
   .
   # Pericardial effusion with early tamponade- has kausumal sign and
   pulsus currently [**7-25**]. For etiology it is very possible this is a
   malignant effusion vs. infectious due to recent instrumentation.  Pt
   does have low grade fever 99 and WBC 14.9. Although cytology negative,
   but low sensitivity, and still likely malignant effusion.
   - pericardiocentesis today w/ pigtail
   - Thoracic will take to OR tomorrow for pericardial window
   - NPO p MN
   - post- pericardiocentesis Echo today
   - continue checking serial pulsus
   - if tamponade worsens for some reason first step would be to give IVF
   then try pressors
   # Pleural effusions
Thoracics will drain L pleural effusion tomorrow
   when doing pericardial window
   - continue to monitor resp status
   .
   # CORONARIES - No h/o CAD, normal stress 1/[**2111**].
   .
   # PUMP - TTEs all with EF >55%. Appears hypovolemic to euvolemic.
   - IVF hydration as above for early tamponade
   .
   # RHYTHM - Sinus tachycardia.
   - cont to monitor on telemetry
   .
   # Esophageal Ca - Pt s/p chemo-XRT and esophagectomy. Concern for
   malignant pleural and pericardial effusions.
   - further plans per primary oncology team, Dr. [**Last Name (STitle) 5112**]
   - f/u thoracic surgery recs, appreciate involvement
   .
   # Hypertension - BP stable, off atenolol.
   - cont to hold atenolol
   .
   # Dyslipidemia - Previously treated with Lovastatin, but has been off
   this since diagnosis of esophageal Ca.
   - lipid panel pending
   .
   # ? Diabetes - If pt diabetic, currently diet-controlled.
   - Hgb A1c pending
   - FSBS QIDACHS, HISS to cover
   .
   # Anemia - Pt started on iron supplementation for Fe-deficient anemia
   on last hospitalization. Now with decrease in Hct from 32 to 26
   overnight, although was in similar range on prior hospitalization.
   - cont home iron supplements
   - Guaiac stools
   - checking daily Hcts
   .
   FEN: NPO for procedure, afterwards can start diabetic cardiac diet. IVF
   hydration. Replete lytes PRN.
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Pain management with Tylenol, Morphine
   -Bowel regimen with Colace, Senna, Dulcolax
   FULL CODE
   DISPO: CCU for now
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-5-29**] 02:21 AM
   20 Gauge - [**2112-5-29**] 02:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I agreed with the comprehensive admission note as outlined by Dr.
   [**Last Name (STitle) 4633**] on [**2112-5-29**].   I concur with the documentation of the
   admission history.  The physical examination is consistent with my
   examination and the assessment and management describe our plans over
   the next 24 hours.  Mr. [**Known lastname 6510**] is a 54 year old man with
   esophageal carcinoma who developed a recurrent pericardial effusion
   with borderline tamponade physiologically by clinical examination and
   echocardiography.  He has shortness of breath.  We will plan with
   pericardiocentesis followed by a pericardial window to prevent
   recurrence.  The management plan was discussed with the patient.
   [**First Name4 (NamePattern1) 3139**] [**Last Name (NamePattern1) 5279**] x20958
   ------ Protected Section Addendum Entered By:[**Name (NI) 3139**] [**Last Name (NamePattern1) 5279**], MD
   on:[**2112-5-29**] 13:57 ------

2112-05-30 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --s/p pericardiocentesis yielding 250cc serous fluid and drain placed.
   Repeat ECHO showed drain in place.  Has drained 130cc serous fluid
   since procedure
   --plan for pericardial window by thoracic [**Doctor First Name **] tomorrow
   --Hct drop of 32-->26 which on recheck was 29
   --Surgical site on right upper back noted to be slighly dehisced.
   Thoracic surgery notified and saw pt. Swab sent for cx
   --Cont to be tachy in one teens. Gave another 500ml bolus and then
   started on maint fluids o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-30**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 109 (98 - 122) bpm
   BP: 110/71(80) {106/64(75) - 140/94(103)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,323 mL
                                                                    916 mL
   PO:
             TF:
   IVF:
                                                                  1,323 mL
                                                                    916 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                      0 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
                                                                    130 mL
   Balance:
                                                                    703 mL
                                                                    916 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   GENERAL: well appearing man in mild-moderate discomfort. Oriented x3.
   Mood, affect appropriate.
   NECK: No elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Tachycardic, regular rhythm, distant heart sounds. Normal S1-S2, +S3,
   soft pericardial rub. Pericardial drain in place, dressing c/d/I
   draining serous fluid.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Tachypneic
   with shallow breathing. Good air movement, no accessory muscle use.
   Decreased breath sounds at bases (L>R), without crackles, wheezes or
   rhonchi.
   ABDOMEN: NABS, soft/NT/ND. No HSM or tenderness. Abd aorta not enlarged
   by palpation. No abdominial bruits.
   EXTREMITIES: WWP, no c/c/e. No femoral bruits.  2+ pedal pulses.
   SKIN: Right upper back surgical scar slightly erythematous with small
   dehisced area that is packed with wick and covered with dry dressing.
   Labs / Radiology
   158 K/uL
   8.8 g/dL
   119 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   12 mg/dL
   103 mEq/L
   138 mEq/L
   27.2 %
   8.0 K/uL
        [image002.jpg]
                             [**2112-5-29**]  02:36 AM
                             [**2112-5-29**]  02:47 PM
                             [**2112-5-30**]  04:16 AM
   WBC
   14.9
   12.3
   8.0
   Hct
   26.0
   29.0
   27.2
   Plt
   154
   166
   158
   Cr
   0.7
   0.6
   TropT
   <0.01
   Glucose
   151
   119
   Other labs: PT / PTT / INR:14.3/28.6/1.2, CK / CKMB /
   Troponin-T:18//<0.01, Amylase / Lipase:/21, Differential-Neuts:90.9 %,
   Lymph:3.8 %, Mono:5.2 %, Eos:0.2 %, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:
   54-yo man with hypertension, dyslipidemia, locally-advanced esophageal
   cancer s/p chemo-XRT & esophagectomy, recent left pleural effusion s/p
   thoracentesis and recent pericardial effusion with tamponade s/p
   pericardiocentesis [**2112-5-23**], who was admitted to [**Hospital1 2266**] with asymptomatic
   tachycardia and is now being transferred to CCU with recurrent
   pericardial effusion and early tamponade.
   .
   # Pericardial effusion: Patient is s/p pericardiocentesis with drainage
   of 250 cc serous fluid with another 130cc put out by pericardial drain.
   Post procedure ECHO showed nearly resolved effusion. Patient remains
   Hemodynamically stable. Tentative plan is for pericardial window by
   thoracics today. Most likely etiologies include secondary to recent
   surgery or XRT or malignant.
   - Pericardial window today
   - f/u pericardial fluid cytology
   .
   # Pleural effusions
Thoracics will drain L pleural effusion today when
   doing pericardial window. Resp status remains stable.
   ..
   # CORONARIES - No h/o CAD, normal stress 1/[**2111**].
   .
   # PUMP - TTEs all with EF >55%. Appears hypovolemic to euvolemic.
   .
   # RHYTHM - Sinus tachycardia. Has been responsive to small fluid
   boluses (130
115).
   - cont to monitor on telemetry
   .
   # Esophageal Ca - Pt s/p chemo-XRT and esophagectomy. Concern for
   malignant pleural and pericardial effusions.
   - further plans per primary oncology team, Dr. [**Last Name (STitle) 5112**]
   - f/u thoracic surgery recs, appreciate involvement
   .
   # Hypertension - BP stable, off atenolol.
   - cont to hold atenolol
   .
   # Dyslipidemia - Previously treated with Lovastatin, but has been off
   this since diagnosis of esophageal Ca.
   - lipid panel pending
   .
   # ? Diabetes
Has had multiple elevated fasting blood sugars. A1c
   pending.
   - FSBS QIDACHS, HISS to cover
   .
   # Microcytic Anemia: Hct currently at baseline.
   - cont home iron supplements
   - Guaiac stools
   - checking daily Hcts
   .
   FEN: NPO for procedure, afterwards can start diabetic cardiac diet. IVF
   hydration. Replete lytes PRN.
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Pain management with Tylenol, Morphine
   -Bowel regimen with Colace, Senna, Dulcolax
   FULL CODE
   DISPO: CCU for now
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6383**].
   I would add the following remarks:
   History
   Pt comfortable with pericardial drain in place.
   Physical Examination
   no evidence of tamponade
   Medical Decision Making
   Plan surgical window this PM with drainage of pleural effusions as
   well.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2112-5-30**] 12:10 ------

2112-05-31 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- s/p pericardial window per surgery the pericardium was scarred
   diffusely. Unclear as to why. Porta cath also removed during procedure.
   -- placed chest-tube
   -- CXR: Left chest tube traverses left apex to terminate mid left
   hemithorax. No PTX. Bilateral pleural effusions and retrocardiac
   opacity largely unchanged,
   -- PM Hct stable 26.8
   -- decreased UOP overnight 15-20cc. Increased IVF 125cc/hr and then
   bolused 1L.
   -- ordered for cefazolin 1g q8 x2 more doses (3 doses total).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2112-5-31**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-31**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 91 (88 - 116) bpm
   BP: 99/55(70) {80/51(62) - 157/89(114)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,900 mL
                                                                  1,965 mL
   PO:
                                                                     60 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,840 mL
                                                                  1,725 mL
   Blood products:
   Total out:
                                                                    890 mL
                                                                    695 mL
   Urine:
                                                                    790 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                  1,270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GENERAL: well appearing man in mild-moderate discomfort. Oriented x3.
   Mood, affect appropriate.
   NECK: No elevation of JVP
   CARDIAC: tachycardic, s1/s2 present, -mrg.
   LUNGS: Decreased breath sounds at bases (L>R), without crackles,
   wheezes or rhonchi.  L chest tube in place attached to suction and
   draining serosanguinious fluid
   ABDOMEN: NABS, soft/NT/ND
   EXTREMITIES: warm and well perfused. 1+ LE edema
   SKIN: Right upper back surgical scar slightly erythematous with small
   dehisced area that is packed with wick and covered with dry dressing.
   Labs / Radiology
   151 K/uL
   7.5 g/dL
   104 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   12 mg/dL
   105 mEq/L
   136 mEq/L
   23.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2112-5-29**]  02:36 AM
                             [**2112-5-29**]  02:47 PM
                             [**2112-5-30**]  04:16 AM
                             [**2112-5-30**]  07:24 PM
                             [**2112-5-30**]  07:48 PM
                             [**2112-5-31**]  04:47 AM
                             [**2112-5-31**]  05:11 AM
   WBC
   14.9
   12.3
   8.0
   11.8
   6.4
   Hct
   26.0
   29.0
   27.2
   26.8
   23.5
   Plt
   154
   166
   158
   155
   151
   Cr
   0.7
   0.6
   0.7
   0.5
   TropT
   <0.01
   Glucose
   151
   119
   140
   104
   Other labs: PT / PTT / INR:14.3/28.6/1.2, CK / CKMB /
   Troponin-T:18//<0.01, Amylase / Lipase:/21, Differential-Neuts:90.9 %,
   Lymph:3.8 %, Mono:5.2 %, Eos:0.2 %, LDH:137 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   54-yo man with hypertension, dyslipidemia, locally-advanced esophageal
   cancer s/p chemo-XRT & esophagectomy, recent left pleural effusion s/p
   thoracentesis and recent pericardial effusion with tamponade s/p
   pericardiocentesis [**2112-5-23**], who was admitted to [**Hospital1 2266**] with asymptomatic
   tachycardia and is now being transferred to CCU with recurrent
   pericardial effusion and early tamponade.
   .
   # Pericardial effusion: Patient is s/p pericardiocentesis [**5-29**] and s/p
   pericardial window via video assisted thoracotomy [**5-30**].  Given
   thickened appearance of pericardium thoracics unclear if window
   complete. Again, we feel etiology of recurrent pericardial fluid
   reaccumulation is recent [**Doctor First Name **] vs XRT. Thickened pericardium would be
   more consistent with XRT.
   -f/u pericardial fluid cxs and cytology from [**5-29**] and [**5-30**]
   -f/u thoracics recs
   -pain control with dilaudid PCA and toradol
   -monitor hemodynamics closely given concern for possible
   re-accumulation if window was not complete
   -recheck an ECHO
   -CXR today
   .
   # Pleural effusions: Left chest tube placed intra-operatively. Has
   drained 400 mL serosanguinous fluid. Resp status remains stable.
   ..
   # Anemia: 3 pt Hct drop overnight. Likely dilutional since he received
   2 liters and Hct previously stable post procedure.
   - active T and S
   - check PM Hct
   - cont oral iron supplements
   - guiac stools
   .
   # CORONARIES - No h/o CAD, normal stress 1/[**2111**].
   .
   # PUMP - TTEs all with EF >55%. Appears euvolemic.
   .
   # RHYTHM - Sinus tachycardia has improved with fluid boluses.
   - cont small fluid boluses as needed
   - cont to monitor on telemetry
   .
   # Esophageal Ca - Pt s/p chemo-XRT and esophagectomy. Concern for
   malignant pleural and pericardial effusions.
   - further plans per primary oncology team, Dr. [**Last Name (STitle) 5112**]
   - f/u thoracic surgery recs, appreciate involvement
   .
   # Hypertension
 BP remains stable.
   - cont to hold atenolol
   .
   # Dyslipidemia - Previously treated with Lovastatin, but has been off
   this since diagnosis of esophageal Ca.
   - lipid panel pending
   .
   #  Diabetes: Blood sugars stable on ISS.
   - FSBS QIDACHS, HISS to cover
   .
   FEN: diabetic// cardiac diet. IVF hydration. Replete lytes PRN.
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Pain management with dilaudid PCA and toradol
   -Bowel regimen with Colace, Senna, Dulcolax
   FULL CODE
   DISPO: CCU for now
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6383**].
   I would add the following remarks:
   History
   Tolerated pericardial window yesterday.  Chest tube in place.
   SBP borderline at 90-100.
   Hct 23.5.
   Physical Examination
   No neck vein distention.
   Medical Decision Making
   Continue to monitor HCT and support with IV fluids.
   Monitor in ICU one more day.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2112-5-31**] 11:41 ------

2112-06-01 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-5-31**] 05:21 PM
   - Hct stable at 1pm 23.5, at 10pm 22.5
   - Echo: small to mod sized effusion c/w organization; may have septal
   bounce; no e/o tamponade
   - CXR: R hemidiaphragm better, retrocardiac opacity persistent
   - d/c'd ISS, all BS < 150. pt annoyed of finger sticks
   - Pericardial fluid: Rare atypical epithelioid cells in a background of
   reactive mesothelial cells, histiocytes and inflammatory cells.
   - growing pan-sensitive staph from wound, started on bactrim. Surgery
   rec no antibiotics and cont draining with wick
   - Chest tube to waterseal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2112-5-31**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-6-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 83 (81 - 97) bpm
   BP: 115/76(83) {88/51(66) - 117/76(83)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  3,602 mL
                                                                    120 mL
   PO:
                                                                  1,420 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,182 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,110 mL
   Urine:
                                                                  1,610 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,627 mL
                                                                   -990 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   GENERAL: well appearing man in mild-moderate discomfort. Oriented x3.
   Mood, affect appropriate.
   NECK: No elevation of JVP
   CARDIAC: RRR, s1/s2 present, -mrg.
   LUNGS: Decreased breath sounds at bases (L>R), without crackles,
   wheezes or rhonchi.  L chest tube in place attached to suction and
   draining serosanguinious fluid
   ABDOMEN: NABS, soft/NT/ND
   EXTREMITIES: warm and well perfused. 1+ LE edema
   SKIN: Right upper back surgical scar slightly covered with dry
   dressing.
   Labs / Radiology
   132 K/uL
   7.8 g/dL
   101 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   11 mg/dL
   105 mEq/L
   140 mEq/L
   24.5 %
   4.3 K/uL
        [image002.jpg]
                             [**2112-5-29**]  02:36 AM
                             [**2112-5-29**]  02:47 PM
                             [**2112-5-30**]  04:16 AM
                             [**2112-5-30**]  07:24 PM
                             [**2112-5-30**]  07:48 PM
                             [**2112-5-31**]  04:47 AM
                             [**2112-5-31**]  05:11 AM
                             [**2112-5-31**]  01:07 PM
                             [**2112-5-31**]  10:45 PM
                             [**2112-6-1**]  04:29 AM
   WBC
   14.9
   12.3
   8.0
   11.8
   6.4
   4.3
   Hct
   26.0
   29.0
   27.2
   26.8
   23.5
   23.5
   22.5
   24.5
   Plt
   154
   166
   158
   155
   151
   132
   Cr
   0.7
   0.6
   0.7
   0.5
   0.6
   TropT
   <0.01
   Glucose
   151
   119
   140
   104
   101
   Other labs: PT / PTT / INR:13.8/27.0/1.2, CK / CKMB /
   Troponin-T:18//<0.01, Amylase / Lipase:/21, Differential-Neuts:90.9 %,
   Lymph:3.8 %, Mono:5.2 %, Eos:0.2 %, LDH:137 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 WOUND DEHISCENCE
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 PLEURAL EFFUSION, ACUTE
 INEFFECTIVE COPING
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   54-yo man with hypertension, dyslipidemia, locally-advanced esophageal
   cancer s/p chemo-XRT & esophagectomy, recent left pleural effusion s/p
   thoracentesis and recent pericardial effusion with tamponade s/p
   pericardiocentesis [**2112-5-23**], who was admitted to [**Hospital1 2266**] with asymptomatic
   tachycardia and is now being transferred to CCU with recurrent
   pericardial effusion and early tamponade.
   .
   # Pericardial effusion: Patient is s/p pericardiocentesis [**5-29**] and s/p
   pericardial window via video assisted thoracotomy [**5-30**].  Given
   thickened appearance of pericardium thoracics unclear if window
   complete, but pt has remained stable overnight. ECHO showed
   organization of effusion. No tamponade. Again, we feel etiology of
   recurrent pericardial fluid reaccumulation is recent [**Doctor First Name **] vs XRT,
   however pericardial fluid did show rare atypical cells in background og
   reactive cells. Pt did not require PCA overnight
   -f/u pericardial fluid cxs and cytology from [**5-29**] and [**5-30**]
   -f/u thoracics recs
   - d/c PCA and transition to oral
   - cont toradol
   -monitor hemodynamics closely given concern for possible
   re-accumulation if window was not complete
   .
   # Pleural effusions: Left chest tube placed intra-operatively. Has
   drained 100 mL serosanguinous fluid since midnight. Resp status remains
   stable. Chest tube to water-seal. F/u surgery recs
   ..
   # Anemia: Hct improved to 24 this AM. No evidence of active bleed
   - active T and S
   - check Hct daily
   - cont oral iron supplements
   - guiac stools
   .
   #. Surgical Wound: swab growing pan-sensitive staph. Wick in place and
   draining. Was started on bactrim yesterday, however surgery recs not
   starting antibiotics given wound is draining.
   -          d/c antibiotics
stopping bactrim
   -          dressing changes per surgery
   -          cont to monitor
   # CORONARIES - No h/o CAD, normal stress 1/[**2111**].
   .
   # PUMP - TTEs all with EF >55%. Appears euvolemic.
   .
   # RHYTHM - Sinus tachycardia has improved with fluid boluses.
   - cont small fluid boluses as needed
   - cont to monitor on telemetry
   .
   # Esophageal Ca - Pt s/p chemo-XRT and esophagectomy. Concern for
   malignant pleural and pericardial effusions.
   - further plans per primary oncology team, Dr. [**Last Name (STitle) 5112**]
   - f/u thoracic surgery recs, appreciate involvement
   .
   # Hypertension
 BP remains stable.
   - cont to hold atenolol
   .
   # Dyslipidemia - Previously treated with Lovastatin, but has been off
   this since diagnosis of esophageal Ca.
   - lipid panel pending
   .
   #  Diabetes: Blood sugars stable on ISS.
   - FSBS QIDACHS, HISS to cover
   .
   FEN: diabetic// cardiac diet. IVF hydration. Replete lytes PRN.
   ACCESS: PIVs
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   -Bowel regimen with Colace, Senna, Dulcolax
   FULL CODE
   DISPO: call out to floor today
   HCP: [**Name (NI) 6511**] [**Name (NI) 6510**] (Father) [**Telephone/Fax (1) 6512**]-cell and
   [**Telephone/Fax (1) 6513**]-work
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-5-29**] 02:21 AM
   20 Gauge - [**2112-5-30**] 08:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: